### PR TITLE
[Merged by Bors] - chore(Analysis/SpecialFunctions/Gaussian/PoissonSummation): use `fun_prop`

### PR DESCRIPTION
**Pull request by yuanyi-350**
Extracted from #37968

----------

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by yuanyi-350** [comment]
I ran a profiler comparison for the changed declaration in this PR.

Results (seconds):
- `Complex.tsum_exp_neg_quadratic`: `0.330336 -> 0.425684` (`+28.9%`)

Overall:
- The changed proof is slower in this run.

File: Mathlib/Analysis/SpecialFunctions/Gaussian/PoissonSummation.lean [hunk 1]
```diff
@@ -102,23 +97,24 @@ theorem Complex.tsum_exp_neg_quadratic {a : ℂ} (ha : 0 < a.re) (b : ℂ) :
     refine mul_pos pi_pos (div_pos ha <| normSq_pos.mpr ?_)
     contrapose! ha
     rw [ha, zero_re]
+  have hFf : 𝓕 f = fun x : ℝ ↦ 1 / a ^ (1 / 2 : ℂ) * cexp (-π / a * (x + I * b) ^ 2) :=
+    fourier_gaussian_pi' ha b
```
Comment (themathqueen) [inline Mathlib/Analysis/SpecialFunctions/Gaussian/PoissonSummation.lean]: can you move this back up to reduce the diff?

File: Mathlib/Analysis/SpecialFunctions/Gaussian/PoissonSummation.lean [hunk 2]
```diff
@@ -88,10 +88,7 @@ theorem Complex.tsum_exp_neg_quadratic {a : ℂ} (ha : 0 < a.re) (b : ℂ) :
     (∑' n : ℤ, cexp (-π * a * n ^ 2 + 2 * π * b * n)) =
       1 / a ^ (1 / 2 : ℂ) * ∑' n : ℤ, cexp (-π / a * (n + I * b) ^ 2) := by
   let f : ℝ → ℂ := fun x ↦ cexp (-π * a * x ^ 2 + 2 * π * b * x)
-  have hCf : Continuous f := by
-    refine Complex.continuous_exp.comp (Continuous.add ?_ ?_)
-    · exact continuous_const.mul (Complex.continuous_ofReal.pow 2)
-    · exact continuous_const.mul Complex.continuous_ofReal
+  have hCf : Continuous f := by fun_prop
```
Comment (grunweg) [inline Mathlib/Analysis/SpecialFunctions/Gaussian/PoissonSummation.lean]: This is only used once; can you inline this at its only usage site, please?

File: Mathlib/Analysis/SpecialFunctions/Gaussian/PoissonSummation.lean [hunk 3]
```diff
@@ -108,17 +105,16 @@ theorem Complex.tsum_exp_neg_quadratic {a : ℂ} (ha : 0 < a.re) (b : ℂ) :
...
     rw [hFf]
     have : ∀ (x : ℝ), -↑π / a * (↑x + I * b) ^ 2 =
-        -↑π / a * x ^ 2 + (-2 * π * I * b) / a * x + π * b ^ 2 / a := by
+        -π / a * x ^ 2 + (-2 * π * I * b) / a * x + π * b ^ 2 / a := by
       intro x; ring_nf; rw [I_sq]; ring
     simp_rw [this]
     conv => enter [2, x]; rw [Complex.exp_add, ← mul_assoc _ _ (Complex.exp _), mul_comm]
     refine ((cexp_neg_quadratic_isLittleO_abs_rpow_cocompact
-      (?_) (-2 * ↑π * I * b / a) (-2)).isBigO.const_mul_left _).const_mul_left _
+      (?_) (-2 * π * I * b / a) (-2)).isBigO.const_mul_left _).const_mul_left _
```
Comment (themathqueen) [inline Mathlib/Analysis/SpecialFunctions/Gaussian/PoissonSummation.lean]: do you need the parentheses here?
```suggestion
      ?_ (-2 * π * I * b / a) (-2)).isBigO.const_mul_left _).const_mul_left _
```

File: Mathlib/Analysis/SpecialFunctions/Gaussian/PoissonSummation.lean [hunk 4]
```diff
@@ -108,17 +104,16 @@ theorem Complex.tsum_exp_neg_quadratic {a : ℂ} (ha : 0 < a.re) (b : ℂ) :
   have Ff_bd : (𝓕 f) =O[cocompact ℝ] (fun x => |x| ^ (-2 : ℝ)) := by
     rw [hFf]
     have : ∀ (x : ℝ), -↑π / a * (↑x + I * b) ^ 2 =
```
Comment (themathqueen) [inline Mathlib/Analysis/SpecialFunctions/Gaussian/PoissonSummation.lean]: may as well remove the coercions here since they're automatically added? (I think)

```suggestion
    have : ∀ (x : ℝ), -π / a * (x + I * b) ^ 2 =
```

**Review by themathqueen — COMMENTED** [review]
Thanks!

maintainer merge
